US05721245
2.2 g of oxalyl chloride were added to an ice-cold solution of 4 g of 8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indole in 50 ml of dichloromethane. After 2 hours, the solvent was evaporated and the residue was dissolved in dichloromethane. This solution was added to a solution of 3.0 g of 2-chlorophenylacetic acid and 4.0 g of triethylamine in dichloromethane. The mixture was stirred for 16 hours and then concentrated. Chromatography of the residue on silica gel with dichloromethane/methanol (95:5) yielded 0.9 g of 3-[8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(2-chlorophenyl)furan-2,5-dione of melting point 168°-171° C.

reactant | oxalyl chloride | 2.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indole | 4 g | C(C)(=O)OCC1CC=2N(C3=CC=CC=C3C2)CC1 | C15H17NO2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[8-(acetoxymethyl)-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(2-chlorophenyl)furan-2,5-dione | 0.9 g | C(C)(=O)OCC1CC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=C(C=CC=C2)Cl)=O)=O)CC1 | C25H20ClNO5
